US08633200B2
(2S)-2-(tert-Butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-3-(3-((4-fluorobenzyl)oxy)phenyl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid
To a solution of (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-3-(3-((4-fluorobenzyl)oxy)phenyl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate TFA salt (10 mg, 0.014 mmol) in dioxane (0.5 mL) was added 1.0 N LiOH aqueous solution (0.5 mL, 0.5 mmol). The reaction mixture was stirred at 60° C. for 48 h. The reaction mixture was filtered and the filtrate was purified by preparative HPLC to afford (5 mg, 50%) of the title compound as the TFA salt. Preparative HPLC condition: Phenomenex Luna C18 30×100 mm S10, 50 to 100% B over 22 min gradient, 6 min hold time, A=10% methanol 90% water 0.1% TFA, B=90% methanol 10% water 0.1% TFA. Flow rate: 40 mL/min. 1H-NMR (400 MHz, DMSO-d6) δ ppm 1.087 (9H, br. s.), 1.88 (2H, br. s.), 2.51 (2H, br. s.), 2.71 (3H, br. s.) 2.82-2.96 (2H, m), 4.29 (2H, br. s.), 4.6 (1H, s), 5.02 (2H, s), 6.9 (1H, s), 7.14-7.47 (12H, m), 7.97 (1H, s).

reactant | (2S)-methyl 2-(tert-butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-3-(3-((4-fluorobenzyl)oxy)phenyl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate TFA salt | 0.014 mmol, 10 mg | OC(=O)C(F)(F)F.C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2C2=CC(=CC=C2)OCC2=CC=C(C=C2)F)C2=CC=CC=C2)C
reactant | LiOH | 0.5 mmol, 1.0 N, 0.5 mL | [Li+].[OH-]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (2S)-2-(tert-Butoxy)-2-(7-(8-fluoro-5-methylchroman-6-yl)-3-(3-((4-fluorobenzyl)oxy)phenyl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 5 mg, 50% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2C2=CC(=CC=C2)OCC2=CC=C(C=C2)F)C2=CC=CC=C2)C | C42H39F2N3O5
